US04689345
3-(5-[(1,1-Dimethylethyl)dimethylsiloxy]pent-1-yl)cyclopentene {[5-(2-cyclopenten-1-yl)pentyl](1,1-dimethylethyl)dimethylsilane}
All reactions are carried out under an inert atmosphere. The starting material, (5-chloro-1-pentyloxy)(2,2-dimethylethyl) dimethylsilane {[(5-chloropentyl)oxy](1,1-dimethylethyl)dimethylsilane} (534 g, 2.26 moles), diluted in tetrahydrofuran (500 ml), is added portionwise to a refluxing solution of tetrahydrofuran and granular magnesium (75 g). After the addition is complete the reaction is refluxed an additional 2 hours and the resultant Grignard salt is cooled to room temperature, cannulated into a three liter flask, and cooled to -20° C. A solution of Li2CuCl4 (6.4 mmoles) is added, followed by the dropwise addition of 3-chlorocyclopentene (219 g, 2.1 moles) cooled in a -20° C. dry ice/ethanol bath. After the addition is complete the mixture is warmed to room temperature. Water (500 ml) is added. The reaction mixture is extracted with hexane (3×400 ml). The organic layers are combined, washed with brine (2×500 ml) and dried over anhydrous sodium sulfate. The remaining solvent is removed under vacuum leaving a clear yellow oil. The crude product is fractionally distilled under reduced pressure leaving a clear, colorless oil (478 g, 1.78 moles), BP 96° C./0.3 mm.

reactant | (5-chloro-1-pentyloxy)(2,2-dimethylethyl) dimethylsilane | ClCCCCCO[Si](C)(C)CC(C)C | C11H25ClOSi
reactant | [(5-chloropentyl)oxy](1,1-dimethylethyl)dimethylsilane | ClCCCCCO[Si](C)(C)C(C)(C)C | C11H25ClOSi
reactant | magnesium | 75 g | [Mg] | Mg
reactant | 3-chlorocyclopentene | 2.1 moles, 219 g | ClC1C=CCC1 | C5H7Cl
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | Water | 500 ml | O | H2O
product | 3-(5-[(1,1-Dimethylethyl)dimethylsiloxy]pent-1-yl)cyclopentene | 1.78 moles, 478 g | CC(C)(C)[Si](OCCCCCC1C=CCC1)(C)C | C16H32OSi
